US05185370
3-(4-Trifluoromethylbenzylidene)-2,4-pentanedione
4-Trifluoromethylbenzaldehyde (8,7 g) was condenced with 2,4-pentanedione (5,01 g in trifluoroacetic acid (10 ml) thionylchloride (4 ml) and catalytic amount of water (0,05 ml) were added at room temperature. The solution was stirred over right at 20° C. The solvent was evaporated and the residue was destilled in vacuo, bp 110° C./1,5 mbar. The crude product was crystallized from a mixture of ether-petroleum ether (1:1), mp 46°-48° C., yield 3,8 g (30%).

reactant | 4-Trifluoromethylbenzaldehyde | 8,7 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
reactant | water | 0,05 ml | O | H2O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-Trifluoromethylbenzylidene)-2,4-pentanedione | FC(C1=CC=C(C=C(C(C)=O)C(C)=O)C=C1)(F)F | C13H11F3O2
